US08076489B2
Methanesulfonic acid (S)-2-(5-tert-butoxy-2-isopropoxy-benzothiazol-7-yl)-2-hydroxy-ethyl ester
Methane sulfonylchloride (112 mg) is added to (S)-1-(5-tert-Butoxy-2-isopropoxy-benzothiazol-7-yl)-ethane-1,2-diol (289 mg) in pyridine (2 ml) at 0° C. The reaction mixture is then stirred at 0° C. for 3 hours. The solvent is removed in vacuo, The resulting residue is partitioned between HCl(aq) (2M) and ether. The organics is washed with water (2×), brine (1×), dried over MgSO4, filtered and the solvent removed in vacuo to give the title compound. 1H nmr (CDCl3, 400 MHz); 7.20 (d, 1H), 6.80 (d, 1H), 5.30 (sept, 1H), 5.10 (t, 1H), 4.30 (d, 2H), 3.00 (s, 3H), 1.40 (d, 6H), 1.30 (s, 9H).

reactant | Methane sulfonylchloride | 112 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | (S)-1-(5-tert-Butoxy-2-isopropoxy-benzothiazol-7-yl)-ethane-1,2-diol | 289 mg | C(C)(C)(C)OC=1C=C(C2=C(N=C(S2)OC(C)C)C1)[C@@H](CO)O | C16H23NO4S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | Methanesulfonic acid (S)-2-(5-tert-butoxy-2-isopropoxy-benzothiazol-7-yl)-2-hydroxy-ethyl ester | C(C)(C)(C)OC=1C=C(C2=C(N=C(S2)OC(C)C)C1)[C@@H](COS(=O)(=O)C)O | C17H25NO6S2
